US07691882B2
3-Ethynyl-pyridin-2,6-diamine
To a solution of 3-trimethylsilanylethynyl-pyridin-2,6-diamine (7.0 g, 34.1 mmol) described in Manufacturing Example 13-1-2 in tetrahydrofuran (100 mL) was added tetrabutylammonium fluoride (1M tetrahydrofuran solution, 17 mL, 17 mmol) on an ice bath, which was stirred for 10 minutes at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate 3 times. The extract was dried over sodium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate) to obtain the title compound (3.35 g, 73.8%).

reactant | 3-trimethylsilanylethynyl-pyridin-2,6-diamine | 34.1 mmol, 7.0 g | C[Si](C)(C)C#CC=1C(=NC(=CC1)N)N | C10H15N3Si
reactant | tetrabutylammonium fluoride | 17 mmol, 1M, 17 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-Ethynyl-pyridin-2,6-diamine | 3.35 g, 73.8% | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
